US07868177B2
A slurry of 1-benzoyl-2-methyl-3-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)isothiourea (0.174 g, 0.37 mmol) and anhydrous hydrazine (0.35 ml, 11 mmol) in EtOH was sealed and heated to 80° C. After 16 h, a yellow precipitate formed. The reaction was cooled to ambient temperature, filtered, rinsing with 2×1 mL EtOH, and the solid was dried in vacuo to give N-methyl-4-(2-(4-(5-phenyl-4H-1,2,4-triazol-3-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine as a white solid. MS m/z=437 [M+H]+. Calc'd for C24H20N8O: 436.5.

reactant | 1-benzoyl-2-methyl-3-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)isothiourea | 0.37 mmol, 0.174 g | C(C1=CC=CC=C1)(=O)NC(SC)=NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C25H22N6O2S
reactant | hydrazine | 11 mmol, 0.35 ml | NN | H4N2
solvent | EtOH | CCO | C2H6O
product | N-methyl-4-(2-(4-(5-phenyl-4H-1,2,4-triazol-3-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(N1)C1=CC=CC=C1 | C24H20N8O
